US07635699B2
A suspension of 6-carbamoyl-5-(2,4-dichlorophenyl)-7-methyl-5,8-dihydroimidazo[1,2-a]pyrimidine-2-sulfonic acid (90 mg, 0.23 mmol) and MnO2 (110 mg, 1.27 mmol) in dioxane (2 mL) was heated to 80° C. for 24 h. HPLC analysis indicated 50% conversion, and additional MnO2 (200 mg) was added and heating was continued for additional 48 h. After removal of catalyst and solvent, 6-carbamoyl-5-(2,4-dichlorophenyl)-7-methylimidazo[1,2-a]pyrimidine-2-sulfonic acid was obtained as a brown solid ˜90% pure (75mg, 82%). The crude product was used for the subsequent reaction without further purification.

reactant | 6-carbamoyl-5-(2,4-dichlorophenyl)-7-methyl-5,8-dihydroimidazo[1,2-a]pyrimidine-2-sulfonic acid | 0.23 mmol, 90 mg | C(N)(=O)C1=C(NC=2N(C1C1=C(C=C(C=C1)Cl)Cl)C=C(N2)S(=O)(=O)O)C | C14H12Cl2N4O4S
solvent | dioxane | 2 mL | O1CCOCC1 | C4H8O2
catalyst | MnO2 | 1.27 mmol, 110 mg | O=[Mn]=O
catalyst | MnO2 | 200 mg | O=[Mn]=O
product | 6-carbamoyl-5-(2,4-dichlorophenyl)-7-methylimidazo[1,2-a]pyrimidine-2-sulfonic acid | C(N)(=O)C=1C(=NC=2N(C1C1=C(C=C(C=C1)Cl)Cl)C=C(N2)S(=O)(=O)O)C | C14H10Cl2N4O4S
